** Name: SimpleTwoStageOpAmp_SimpleOpAmp50_5

.MACRO SimpleTwoStageOpAmp_SimpleOpAmp50_5 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 ibias ibias sourceNmos sourceNmos nmos4 L=10e-6 W=23e-6
mDiodeTransistorNmos2 FirstStageYout1 FirstStageYout1 sourceNmos sourceNmos nmos4 L=4e-6 W=96e-6
mDiodeTransistorPmos3 inputVoltageBiasXXpXX2 inputVoltageBiasXXpXX2 outSourceVoltageBiasXXpXX2 outSourceVoltageBiasXXpXX2 pmos4 L=3e-6 W=4e-6
mDiodeTransistorPmos4 outInputVoltageBiasXXpXX1 outInputVoltageBiasXXpXX1 VoltageBiasXXpXX1Yinner VoltageBiasXXpXX1Yinner pmos4 L=1e-6 W=38e-6
mDiodeTransistorPmos5 outSourceVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=1e-6 W=410e-6
mDiodeTransistorPmos6 outSourceVoltageBiasXXpXX2 outSourceVoltageBiasXXpXX2 sourcePmos sourcePmos pmos4 L=3e-6 W=9e-6
mNormalTransistorNmos7 inputVoltageBiasXXpXX2 ibias sourceNmos sourceNmos nmos4 L=10e-6 W=10e-6
mNormalTransistorNmos8 out outFirstStage sourceNmos sourceNmos nmos4 L=1e-6 W=433e-6
mNormalTransistorNmos9 outFirstStage FirstStageYout1 sourceNmos sourceNmos nmos4 L=4e-6 W=96e-6
mNormalTransistorNmos10 outInputVoltageBiasXXpXX1 ibias sourceNmos sourceNmos nmos4 L=10e-6 W=528e-6
mNormalTransistorNmos11 FirstStageYsourceGCC1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=5e-6 W=23e-6
mNormalTransistorNmos12 FirstStageYsourceGCC2 in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=5e-6 W=23e-6
mNormalTransistorNmos13 FirstStageYsourceTransconductance ibias sourceNmos sourceNmos nmos4 L=10e-6 W=281e-6
mNormalTransistorPmos14 out outInputVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 pmos4 L=1e-6 W=410e-6
mNormalTransistorPmos15 outFirstStage inputVoltageBiasXXpXX2 FirstStageYsourceGCC2 FirstStageYsourceGCC2 pmos4 L=3e-6 W=117e-6
mNormalTransistorPmos16 FirstStageYout1 inputVoltageBiasXXpXX2 FirstStageYsourceGCC1 FirstStageYsourceGCC1 pmos4 L=3e-6 W=117e-6
mNormalTransistorPmos17 FirstStageYsourceGCC1 outSourceVoltageBiasXXpXX2 sourcePmos sourcePmos pmos4 L=3e-6 W=369e-6
mNormalTransistorPmos18 FirstStageYsourceGCC2 outSourceVoltageBiasXXpXX2 sourcePmos sourcePmos pmos4 L=3e-6 W=369e-6
mNormalTransistorPmos19 VoltageBiasXXpXX1Yinner outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=1e-6 W=38e-6
Capacitor1 out sourceNmos 10e-12
Capacitor2 outFirstStage out 2.60001e-12
.EOM SimpleTwoStageOpAmp_SimpleOpAmp50_5

** Expected Performance Values: 
** Gain: 90 dB
** Power consumption: 14.9991 mW
** Area: 13702 (mu_m)^2
** Transit frequency: 18.3571 MHz
** Transit frequency with error factor: 18.343 MHz
** Slew rate: 45.33 V/mu_s
** Phase margin: 65.3172°
** CMRR: 97 dB
** VoutMax: 3.29001 V
** VoutMin: 0.25 V
** VcmMax: 5.12001 V
** VcmMin: 1.02001 V


** Expected Currents: 
** NormalTransistorNmos: 226.23 muA
** NormalTransistorNmos: 4.36701 muA
** NormalTransistorPmos: -120.29 muA
** NormalTransistorPmos: -180.434 muA
** NormalTransistorPmos: -120.292 muA
** NormalTransistorPmos: -180.438 muA
** DiodeTransistorNmos: 120.293 muA
** NormalTransistorNmos: 120.293 muA
** NormalTransistorNmos: 120.291 muA
** NormalTransistorNmos: 60.1451 muA
** NormalTransistorNmos: 60.1451 muA
** NormalTransistorNmos: 2398.43 muA
** NormalTransistorPmos: -2398.42 muA
** DiodeTransistorPmos: -2398.42 muA
** DiodeTransistorNmos: 9.99901 muA
** DiodeTransistorPmos: -226.229 muA
** NormalTransistorPmos: -226.228 muA
** DiodeTransistorPmos: -4.36799 muA
** DiodeTransistorPmos: -4.36899 muA


** Expected Voltages: 
** ibias: 0.631001  V
** in1: 2.5  V
** in2: 2.5  V
** inputVoltageBiasXXpXX2: 3.15601  V
** out: 2.5  V
** outFirstStage: 0.660001  V
** outInputVoltageBiasXXpXX1: 2.72201  V
** outSourceVoltageBiasXXpXX1: 3.86101  V
** outSourceVoltageBiasXXpXX2: 4.15001  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** out1: 0.648001  V
** sourceGCC1: 4.13401  V
** sourceGCC2: 4.13401  V
** sourceTransconductance: 1.70101  V
** inner: 3.86101  V


.END