** Name: SimpleTwoStageOpAmp_SimpleOpAmp6_5

.MACRO SimpleTwoStageOpAmp_SimpleOpAmp6_5 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 outVoltageBiasXXnXX0 outVoltageBiasXXnXX0 sourceNmos sourceNmos nmos4 L=1e-6 W=141e-6
mDiodeTransistorNmos2 FirstStageYinnerOutputLoad1 FirstStageYinnerOutputLoad1 FirstStageYinnerTransistorStack1Load1 FirstStageYinnerTransistorStack1Load1 nmos4 L=1e-6 W=159e-6
mDiodeTransistorNmos3 FirstStageYinnerTransistorStack2Load1 FirstStageYinnerTransistorStack2Load1 sourceNmos sourceNmos nmos4 L=1e-6 W=159e-6
mDiodeTransistorPmos4 ibias ibias sourcePmos sourcePmos pmos4 L=1e-6 W=10e-6
mDiodeTransistorPmos5 outInputVoltageBiasXXpXX1 outInputVoltageBiasXXpXX1 VoltageBiasXXpXX1Yinner VoltageBiasXXpXX1Yinner pmos4 L=3e-6 W=51e-6
mDiodeTransistorPmos6 outSourceVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=3e-6 W=545e-6
mNormalTransistorNmos7 out outFirstStage sourceNmos sourceNmos nmos4 L=2e-6 W=442e-6
mNormalTransistorNmos8 outFirstStage FirstStageYinnerOutputLoad1 FirstStageYinnerTransistorStack2Load1 FirstStageYinnerTransistorStack2Load1 nmos4 L=1e-6 W=159e-6
mNormalTransistorNmos9 outInputVoltageBiasXXpXX1 outVoltageBiasXXnXX0 sourceNmos sourceNmos nmos4 L=1e-6 W=45e-6
mNormalTransistorNmos10 FirstStageYinnerTransistorStack1Load1 FirstStageYinnerTransistorStack2Load1 sourceNmos sourceNmos nmos4 L=1e-6 W=159e-6
mNormalTransistorPmos11 out outInputVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 pmos4 L=3e-6 W=545e-6
mNormalTransistorPmos12 outFirstStage in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=6e-6 W=291e-6
mNormalTransistorPmos13 outVoltageBiasXXnXX0 ibias sourcePmos sourcePmos pmos4 L=1e-6 W=508e-6
mNormalTransistorPmos14 FirstStageYinnerOutputLoad1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=6e-6 W=291e-6
mNormalTransistorPmos15 FirstStageYsourceTransconductance ibias sourcePmos sourcePmos pmos4 L=1e-6 W=600e-6
mNormalTransistorPmos16 VoltageBiasXXpXX1Yinner outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=3e-6 W=51e-6
Capacitor1 out sourceNmos 10e-12
Capacitor2 outFirstStage out 6e-12
.EOM SimpleTwoStageOpAmp_SimpleOpAmp6_5

** Expected Performance Values: 
** Gain: 90 dB
** Power consumption: 14.8051 mW
** Area: 9892 (mu_m)^2
** Transit frequency: 26.6721 MHz
** Transit frequency with error factor: 26.6165 MHz
** Slew rate: 99.2795 V/mu_s
** Phase margin: 65.3172°
** CMRR: 95 dB
** negPSRR: 90 dB
** posPSRR: 95 dB
** VoutMax: 3 V
** VoutMin: 0.300001 V
** VcmMax: 3.61001 V
** VcmMin: 0.550001 V


** Expected Currents: 
** NormalTransistorNmos: 159.075 muA
** NormalTransistorPmos: -506.662 muA
** DiodeTransistorNmos: 304.164 muA
** NormalTransistorNmos: 304.163 muA
** NormalTransistorNmos: 304.164 muA
** DiodeTransistorNmos: 304.163 muA
** NormalTransistorPmos: -608.326 muA
** NormalTransistorPmos: -304.163 muA
** NormalTransistorPmos: -304.163 muA
** NormalTransistorNmos: 1667.02 muA
** NormalTransistorPmos: -1667.01 muA
** DiodeTransistorPmos: -1667.02 muA
** DiodeTransistorNmos: 506.663 muA
** DiodeTransistorPmos: -159.074 muA
** NormalTransistorPmos: -159.074 muA
** DiodeTransistorPmos: -9.99899 muA


** Expected Voltages: 
** ibias: 4.19901  V
** in1: 2.5  V
** in2: 2.5  V
** out: 2.5  V
** outFirstStage: 0.705001  V
** outInputVoltageBiasXXpXX1: 2.43601  V
** outSourceVoltageBiasXXpXX1: 3.71601  V
** outVoltageBiasXXnXX0: 0.610001  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerOutputLoad1: 1.11001  V
** innerTransistorStack1Load1: 0.554001  V
** innerTransistorStack2Load1: 0.555001  V
** sourceTransconductance: 3.65401  V
** inner: 3.72001  V


.END