** Name: SimpleTwoStageOpAmp_SimpleOpAmp71_7

.MACRO SimpleTwoStageOpAmp_SimpleOpAmp71_7 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 outVoltageBiasXXnXX1 outVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=10e-6 W=39e-6
mDiodeTransistorNmos2 outVoltageBiasXXnXX2 outVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=1e-6 W=111e-6
mDiodeTransistorNmos3 FirstStageYout1 FirstStageYout1 sourceNmos sourceNmos nmos4 L=3e-6 W=22e-6
mDiodeTransistorPmos4 ibias ibias outSourceVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 pmos4 L=1e-6 W=24e-6
mDiodeTransistorPmos5 outSourceVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=1e-6 W=10e-6
mNormalTransistorNmos6 out outVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=1e-6 W=424e-6
mNormalTransistorNmos7 outFirstStage FirstStageYout1 sourceNmos sourceNmos nmos4 L=3e-6 W=22e-6
mNormalTransistorNmos8 FirstStageYinnerStageBias outVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=1e-6 W=11e-6
mNormalTransistorNmos9 FirstStageYsourceGCC1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=7e-6 W=51e-6
mNormalTransistorNmos10 FirstStageYsourceGCC2 in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=7e-6 W=51e-6
mNormalTransistorNmos11 FirstStageYsourceTransconductance outVoltageBiasXXnXX1 FirstStageYinnerStageBias FirstStageYinnerStageBias nmos4 L=10e-6 W=121e-6
mNormalTransistorPmos12 out outFirstStage sourcePmos sourcePmos pmos4 L=3e-6 W=596e-6
mNormalTransistorPmos13 outFirstStage ibias FirstStageYsourceGCC2 FirstStageYsourceGCC2 pmos4 L=1e-6 W=119e-6
mNormalTransistorPmos14 outVoltageBiasXXnXX1 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=1e-6 W=143e-6
mNormalTransistorPmos15 outVoltageBiasXXnXX2 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=1e-6 W=515e-6
mNormalTransistorPmos16 FirstStageYout1 ibias FirstStageYsourceGCC1 FirstStageYsourceGCC1 pmos4 L=1e-6 W=119e-6
mNormalTransistorPmos17 FirstStageYsourceGCC1 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=1e-6 W=73e-6
mNormalTransistorPmos18 FirstStageYsourceGCC2 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=1e-6 W=73e-6
Capacitor1 out sourceNmos 10e-12
Capacitor2 outFirstStage out 2.60001e-12
.EOM SimpleTwoStageOpAmp_SimpleOpAmp71_7

** Expected Performance Values: 
** Gain: 81 dB
** Power consumption: 14.2421 mW
** Area: 5856 (mu_m)^2
** Transit frequency: 15.1791 MHz
** Transit frequency with error factor: 15.1634 MHz
** Slew rate: 18.8876 V/mu_s
** Phase margin: 65.3172°
** CMRR: 102 dB
** VoutMax: 4.25 V
** VoutMin: 0.240001 V
** VcmMax: 5.17001 V
** VcmMin: 1.47001 V


** Expected Currents: 
** NormalTransistorPmos: -144.983 muA
** NormalTransistorPmos: -518.147 muA
** NormalTransistorPmos: -48.3299 muA
** NormalTransistorPmos: -74.0129 muA
** NormalTransistorPmos: -48.3299 muA
** NormalTransistorPmos: -74.0129 muA
** DiodeTransistorNmos: 48.3291 muA
** NormalTransistorNmos: 48.3291 muA
** NormalTransistorNmos: 51.3631 muA
** NormalTransistorNmos: 51.3621 muA
** NormalTransistorNmos: 25.6821 muA
** NormalTransistorNmos: 25.6821 muA
** NormalTransistorNmos: 2017.15 muA
** NormalTransistorPmos: -2017.14 muA
** DiodeTransistorNmos: 144.984 muA
** DiodeTransistorNmos: 518.148 muA
** DiodeTransistorPmos: -9.99899 muA
** DiodeTransistorPmos: -9.99999 muA


** Expected Voltages: 
** ibias: 3.48201  V
** in1: 2.5  V
** in2: 2.5  V
** out: 2.5  V
** outFirstStage: 3.68601  V
** outSourceVoltageBiasXXpXX1: 4.19901  V
** outVoltageBiasXXnXX1: 1.06501  V
** outVoltageBiasXXnXX2: 0.641001  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerStageBias: 0.436001  V
** out1: 0.683001  V
** sourceGCC1: 4.19601  V
** sourceGCC2: 4.19601  V
** sourceTransconductance: 1.89001  V


.END