** Name: SymmetricalOpAmp1

.MACRO SymmetricalOpAmp1 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 outFirstStage outFirstStage sourceNmos sourceNmos nmos4 L=1e-6 W=44e-6
mDiodeTransistorNmos2 inTransconductanceComplementarySecondStage inTransconductanceComplementarySecondStage sourceNmos sourceNmos nmos4 L=1e-6 W=44e-6
mDiodeTransistorPmos3 ibias ibias sourcePmos sourcePmos pmos4 L=1e-6 W=11e-6
mDiodeTransistorPmos4 innerComplementarySecondStage innerComplementarySecondStage sourcePmos sourcePmos pmos4 L=1e-6 W=169e-6
mNormalTransistorNmos5 out outFirstStage sourceNmos sourceNmos nmos4 L=1e-6 W=78e-6
mNormalTransistorNmos6 innerComplementarySecondStage inTransconductanceComplementarySecondStage sourceNmos sourceNmos nmos4 L=1e-6 W=78e-6
mNormalTransistorPmos7 out innerComplementarySecondStage sourcePmos sourcePmos pmos4 L=1e-6 W=169e-6
mNormalTransistorPmos8 outFirstStage in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=2e-6 W=376e-6
mNormalTransistorPmos9 inTransconductanceComplementarySecondStage in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=2e-6 W=376e-6
mNormalTransistorPmos10 FirstStageYsourceTransconductance ibias sourcePmos sourcePmos pmos4 L=1e-6 W=182e-6
Capacitor1 out sourceNmos 10e-12
.EOM SymmetricalOpAmp1

** Expected Performance Values: 
** Gain: 48 dB
** Power consumption: 2.43301 mW
** Area: 2279 (mu_m)^2
** Transit frequency: 29.8101 MHz
** Transit frequency with error factor: 29.8096 MHz
** Slew rate: 29.5987 V/mu_s
** Phase margin: 77.3494°
** CMRR: 101 dB
** negPSRR: 54 dB
** posPSRR: 165 dB
** VoutMax: 4.78001 V
** VoutMin: 0.150001 V
** VcmMax: 4.05001 V
** VcmMin: -0.00999999 V


** Expected Currents: 
** DiodeTransistorNmos: 83.8961 muA
** DiodeTransistorNmos: 83.8961 muA
** NormalTransistorPmos: -167.793 muA
** NormalTransistorPmos: -83.8969 muA
** NormalTransistorPmos: -83.8969 muA
** NormalTransistorNmos: 148.728 muA
** NormalTransistorPmos: -148.727 muA
** DiodeTransistorPmos: -150.061 muA
** NormalTransistorNmos: 150.062 muA
** DiodeTransistorPmos: -9.99899 muA


** Expected Voltages: 
** ibias: 4.21001  V
** in1: 2.5  V
** in2: 2.5  V
** inTransconductanceComplementarySecondStage: 0.555001  V
** innerComplementarySecondStage: 4.21301  V
** out: 2.5  V
** outFirstStage: 0.555001  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** sourceTransconductance: 3.22201  V


.END