** Name: SymmetricalOpAmp11

.MACRO SymmetricalOpAmp11 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 inTransconductanceComplementarySecondStage inTransconductanceComplementarySecondStage sourceNmos sourceNmos nmos4 L=2e-6 W=28e-6
mDiodeTransistorNmos2 outFirstStage outFirstStage sourceNmos sourceNmos nmos4 L=2e-6 W=28e-6
mDiodeTransistorPmos3 ibias ibias sourcePmos sourcePmos pmos4 L=3e-6 W=20e-6
mDiodeTransistorPmos4 inStageBiasComplementarySecondStage inStageBiasComplementarySecondStage sourcePmos sourcePmos pmos4 L=6e-6 W=192e-6
mNormalTransistorNmos5 innerComplementarySecondStage inTransconductanceComplementarySecondStage sourceNmos sourceNmos nmos4 L=2e-6 W=83e-6
mNormalTransistorNmos6 out outFirstStage sourceNmos sourceNmos nmos4 L=2e-6 W=83e-6
mNormalTransistorPmos7 inTransconductanceComplementarySecondStage in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=2e-6 W=79e-6
mNormalTransistorPmos8 innerComplementarySecondStage inStageBiasComplementarySecondStage sourcePmos sourcePmos pmos4 L=6e-6 W=192e-6
mNormalTransistorPmos9 out innerComplementarySecondStage inStageBiasComplementarySecondStage inStageBiasComplementarySecondStage pmos4 L=1e-6 W=10e-6
mNormalTransistorPmos10 outFirstStage in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=2e-6 W=79e-6
mNormalTransistorPmos11 FirstStageYsourceTransconductance ibias sourcePmos sourcePmos pmos4 L=3e-6 W=106e-6
Capacitor1 out sourceNmos 10e-12
.EOM SymmetricalOpAmp11

** Expected Performance Values: 
** Gain: 52 dB
** Power consumption: 1.17801 mW
** Area: 3452 (mu_m)^2
** Transit frequency: 13.0011 MHz
** Transit frequency with error factor: 13.0006 MHz
** Slew rate: 16.109 V/mu_s
** Phase margin: 76.7764°
** CMRR: 106 dB
** negPSRR: 53 dB
** posPSRR: 96 dB
** VoutMax: 3.38001 V
** VoutMin: 0.150001 V
** VcmMax: 3.95001 V
** VcmMin: -0.00999999 V


** Expected Currents: 
** DiodeTransistorNmos: 27.0031 muA
** DiodeTransistorNmos: 27.0031 muA
** NormalTransistorPmos: -54.0079 muA
** NormalTransistorPmos: -27.0039 muA
** NormalTransistorPmos: -27.0039 muA
** NormalTransistorNmos: 80.7081 muA
** NormalTransistorPmos: -80.7089 muA
** DiodeTransistorPmos: -80.7099 muA
** NormalTransistorPmos: -80.9089 muA
** NormalTransistorNmos: 80.9081 muA
** DiodeTransistorPmos: -9.99899 muA


** Expected Voltages: 
** ibias: 4.14501  V
** in1: 2.5  V
** in2: 2.5  V
** inStageBiasComplementarySecondStage: 4.05901  V
** inTransconductanceComplementarySecondStage: 0.556001  V
** innerComplementarySecondStage: 2.82001  V
** out: 2.5  V
** outFirstStage: 0.556001  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** sourceTransconductance: 3.25901  V


.END