** Name: SymmetricalOpAmp113

.MACRO SymmetricalOpAmp113 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 ibias ibias sourceNmos sourceNmos nmos4 L=8e-6 W=10e-6
mDiodeTransistorNmos2 innerComplementarySecondStage innerComplementarySecondStage sourceNmos sourceNmos nmos4 L=1e-6 W=11e-6
mDiodeTransistorPmos3 out2FirstStage out2FirstStage sourcePmos sourcePmos pmos4 L=1e-6 W=10e-6
mNormalTransistorNmos4 inSourceTransconductanceComplementarySecondStage in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=3e-6 W=118e-6
mNormalTransistorNmos5 out innerComplementarySecondStage sourceNmos sourceNmos nmos4 L=1e-6 W=11e-6
mNormalTransistorNmos6 out1FirstStage in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=3e-6 W=118e-6
mNormalTransistorNmos7 out2FirstStage ibias sourceNmos sourceNmos nmos4 L=8e-6 W=100e-6
mNormalTransistorNmos8 FirstStageYsourceTransconductance ibias sourceNmos sourceNmos nmos4 L=8e-6 W=408e-6
mNormalTransistorPmos9 innerComplementarySecondStage out2FirstStage TransconductanceComplementarySecondStageYinner TransconductanceComplementarySecondStageYinner pmos4 L=1e-6 W=416e-6
mNormalTransistorPmos10 inSourceTransconductanceComplementarySecondStage out2FirstStage FirstStageYinnerTransistorStack2Load1 FirstStageYinnerTransistorStack2Load1 pmos4 L=1e-6 W=133e-6
mNormalTransistorPmos11 out out2FirstStage SecondStageYinnerTransconductance SecondStageYinnerTransconductance pmos4 L=1e-6 W=416e-6
mNormalTransistorPmos12 out1FirstStage out2FirstStage FirstStageYinnerTransistorStack1Load1 FirstStageYinnerTransistorStack1Load1 pmos4 L=1e-6 W=133e-6
mNormalTransistorPmos13 FirstStageYinnerTransistorStack1Load1 out1FirstStage sourcePmos sourcePmos pmos4 L=1e-6 W=53e-6
mNormalTransistorPmos14 FirstStageYinnerTransistorStack2Load1 inSourceTransconductanceComplementarySecondStage sourcePmos sourcePmos pmos4 L=1e-6 W=53e-6
mNormalTransistorPmos15 SecondStageYinnerTransconductance out1FirstStage sourcePmos sourcePmos pmos4 L=1e-6 W=108e-6
mNormalTransistorPmos16 TransconductanceComplementarySecondStageYinner inSourceTransconductanceComplementarySecondStage sourcePmos sourcePmos pmos4 L=1e-6 W=108e-6
Capacitor1 out sourceNmos 10e-12
.EOM SymmetricalOpAmp113

** Expected Performance Values: 
** Gain: 51 dB
** Power consumption: 6.65401 mW
** Area: 6304 (mu_m)^2
** Transit frequency: 52.4771 MHz
** Transit frequency with error factor: 52.4772 MHz
** Slew rate: 82.1255 V/mu_s
** Phase margin: 67.6091°
** CMRR: 96 dB
** negPSRR: 69 dB
** posPSRR: 55 dB
** VoutMax: 4.30001 V
** VoutMin: 0.660001 V
** VcmMax: 4.94001 V
** VcmMin: 0.960001 V


** Expected Currents: 
** NormalTransistorNmos: 99.5281 muA
** NormalTransistorPmos: -200.119 muA
** NormalTransistorPmos: -200.12 muA
** NormalTransistorPmos: -200.119 muA
** NormalTransistorPmos: -200.12 muA
** NormalTransistorNmos: 400.24 muA
** NormalTransistorNmos: 200.12 muA
** NormalTransistorNmos: 200.12 muA
** NormalTransistorNmos: 414.3 muA
** NormalTransistorPmos: -414.299 muA
** NormalTransistorPmos: -414.298 muA
** DiodeTransistorNmos: 406.831 muA
** NormalTransistorPmos: -406.83 muA
** NormalTransistorPmos: -406.829 muA
** DiodeTransistorNmos: 9.99901 muA
** DiodeTransistorPmos: -99.5289 muA


** Expected Voltages: 
** ibias: 0.711001  V
** in1: 2.5  V
** in2: 2.5  V
** inSourceTransconductanceComplementarySecondStage: 3.97501  V
** innerComplementarySecondStage: 1.06901  V
** out: 2.5  V
** out1FirstStage: 3.97501  V
** out2FirstStage: 3.68601  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerTransistorStack1Load1: 4.53901  V
** innerTransistorStack2Load1: 4.53901  V
** sourceTransconductance: 1.84901  V
** innerTransconductance: 4.48501  V
** inner: 4.48301  V


.END